2147-08-31 11:02:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2147-8-30**] 05:45 PM
   Admitted to MICU.  No major clinical events since my last note, but
   continues to desat into the mid 80s with minimal exertion.
   History obtained from [**Hospital 19**] Medical records, ICU team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2147-8-30**] 07:28 PM
   Vancomycin - [**2147-8-31**] 12:15 AM
   Bactrim (SMX/TMP) - [**2147-8-31**] 05:19 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-8-30**] 08:30 PM
   Other medications:
   PPI, solumedrol 25 q 8, cefepime, levoflox, SQI, nebs, Bactrim, vanco,
   folate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-8-31**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.3
C (95.5
   HR: 94 (90 - 106) bpm
   BP: 120/63(78) {109/59(71) - 163/81(96)} mmHg
   RR: 27 (18 - 34) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,246 mL
                                                                  1,221 mL
   PO:
             150 mL
   TF:
   IVF:
                                                                    746 mL
                                                                  1,071 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    980 mL
   Urine:
                                                                  1,375 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,871 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 90%
   ABG: 7.39/38/86/22/-1
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.9 g/dL
   155 K/uL
   224 mg/dL
   1.8 mg/dL
   22 mEq/L
   4.2 mEq/L
   36 mg/dL
   101 mEq/L
   132 mEq/L
   28.8 %
   8.4 K/uL
        [image002.jpg]
                             [**2147-8-30**]  05:27 PM
                             [**2147-8-30**]  09:22 PM
                             [**2147-8-31**]  04:09 AM
   WBC
   5.7
   8.4
   Hct
   30.8
   28.8
   Plt
   148
   155
   Cr
   1.7
   1.8
   TCO2
   24
   Glucose
   140
   224
   Other labs: PT / PTT / INR:14.6/26.3/1.3, ALT / AST:13/21, Alk Phos / T
   Bili:64/0.5, Differential-Neuts:78.0 %, Lymph:19.8 %, Mono:2.2 %,
   Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:3.5 g/dL, LDH:430 IU/L,
   Ca++:8.6 mg/dL, Mg++:3.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   77-year-old man with a complicated pulmonary history now with four days
   of accelerated dyspnea, marked hypoxemia, increased radiographic
   opacities, and a BAL with progressively bloody return.
   Respiratory Distress
   Differential includes:
          Infectious
 CAP/HAP, PCP, [**Name Initial (NameIs) 609**] (less likely)
   o         Urinary Legionella antigen makes Legionella less likely
   o         Negative PCP DFA makes PCP much less likely
   o         Gram stain is suggestive of Pneumococcus, but culture is
   pending and Gram stain of BAL is not perfectly predictive
   o         Continue to treat for bacterial infection with vanco,
   cefepime, levofloxacin
   o         Consider discontinuing PCP treatment at this point.  Will
   review whether there is new data regarding false-negative BAL for PCP,
   [**Name10 (NameIs) **] discuss with Dr. [**Last Name (STitle) 643**].
   o         Follow-up BAL cultures including AFB
          Malignant
 lymphangitic spread is in DDx, though CT is much
   less suggestive
   o         Follow-up BAL cytology
          Non-infectious, non-malignant inflammatory
   o         DDx includes DAH, HP, COP, eosinophilic PNA, ANCA-associated
   disease, etc.
   o         Eosinophilic pneumonia is adequately excluded
   o         Follow up serologic workup
   o         Will discuss steroids for now and discuss with Dr. [**Last Name (STitle) 643**]
   o         Further evaluation and management depending on above studies
          Heart failure
   o         Seems less likely based on exam and fever
   o         If above is nondiagnostic, check echocardiogram
   Other issues as detailed in ICU team note from today.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2147-8-30**] 03:31 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill